US04280835
Five grams of 3-trifluoromethyl-4-(2-naphthyloxy)-phenyl isocyanate were dissolved in 100 ml of benzene, and a solution of 2 g of N,O-dimethylhydroxylamine in 50 ml of benzene was added dropwise thereto at a temperature below 30° C. The reaction mixture was allowed to stand at room temperature for 30 minutes, and the solvent was then removed under reduced pressure. The residue was recrystallized from ethanol to obtain 4.2 g of N'-[3-trifluoromethyl-4-(2-naphthyloxy)phenyl]-N-methoxy-N-methylurea as white needles. M.P. 129°-130° C.

reactant | 3-trifluoromethyl-4-(2-naphthyloxy)-phenyl isocyanate | Five grams | FC(C=1C=C(C=CC1OC1=CC2=CC=CC=C2C=C1)N=C=O)(F)F | C18H10F3NO2
reactant | N,O-dimethylhydroxylamine | 2 g | CNOC | C2H7NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N'-[3-trifluoromethyl-4-(2-naphthyloxy)phenyl]-N-methoxy-N-methylurea | 4.2 g | FC(C=1C=C(C=CC1OC1=CC2=CC=CC=C2C=C1)NC(N(C)OC)=O)(F)F | C20H17F3N2O3
